US05143919
To a solution of DBU (5.2 g) in toluene (50 ml) was added dropwise a solution of 3-(2-chlorobenzoyl)-2-ethoxycarbonylacetylamino-5-ethylthiophene (6.5 g) in toluene (30 ml) over one hour with stirring under reflux. After refluxing for 7 hours, the mixture was washed with water and dried over MgSO4, and then the solvent was distilled off. The residue was chromatographed on a silica gel column and eluted with hexane-acetone (5 : 1). The solvent was distilled off and hexane was added to obtain ethyl 4-(2-chlorophenyl)-6,7-dihydro-2-ethyl-6-oxothieno[2,3-b]pyridine-5-carboxylate as crystals 33.1%). The crystals were recrystallized from ethanol to obtain light yellow prisms, mp: 126°-127° C.

reactant | DBU | 5.2 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 3-(2-chlorobenzoyl)-2-ethoxycarbonylacetylamino-5-ethylthiophene | 6.5 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)NC(CC(=O)OCC)=O)C=CC=C1 | C18H18ClNO4S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-(2-chlorophenyl)-6,7-dihydro-2-ethyl-6-oxothieno[2,3-b]pyridine-5-carboxylate | 33.1% | ClC1=C(C=CC=C1)C=1C2=C(NC(C1C(=O)OCC)=O)SC(=C2)CC | C18H16ClNO3S
